US04018922
Using the procedure of Example XI, 49.7 g (0.145 mole) of 2-trifluoromethyl-10-(3-chloropropyl)-phenothiazine and 25.5 g (0.145 mole) of 4-(4-piperidyloxy)-butanol were reacted to obtain 29 g (39% yield) of 2-trifluoromethyl-10-[3-(4-[4-hydroxybutoxy]-piperidino)-propyl]-phenothiazine hydrochloride in the form of white crystals melting at 67° C.

reactant | 2-trifluoromethyl-10-(3-chloropropyl)-phenothiazine | 0.145 mole, 49.7 g | FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCCl)(F)F | C16H13ClF3NS
reactant | 4-(4-piperidyloxy)-butanol | 0.145 mole, 25.5 g | N1CCC(CC1)OCCCCO | C9H19NO2
product | 2-trifluoromethyl-10-[3-(4-[4-hydroxybutoxy]-piperidino)-propyl]-phenothiazine hydrochloride | 29 g, 39% yield | Cl.FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCC(CC1)OCCCCO)(F)F | InChI=1S/C25H31F3N2O2S.ClH/c26-25(27,28)19-8-9-24-22(18-19)30(21-6-1-2-7-23(21)33-24)13-5-12-29-14-10-20(11-15-29)32-17-4-3-16-31;/h1-2,6-9,18,20,31H,3-5,10-17H2;1H
